US20010024833A1
2-(4-Carboxyphenyl)benzothiazole
A solution of 2-aminothiophenol (300 mg, 2.4 mmol) in DMA (3 mL) was added to resin-bound 4-carboxybenzaldehyde (subn. 0.60 mmol/g, 400 mg, 0.24 mmol), followed by TCNE (307 mg, 2.4 mmol). The suspension was shaken at 25° C. for 24 h. The resin was filtered, washed with DMA and DCM, and dried under high vacuum. The resin-bound benzothiazole was cleaved from the solid support with 20% (v/v) TFA in DCM (2×5 mL, 15 min) and the combined filtrates were evaporated to give the title compound. 1H NMR (d6-DMSO) δ 7.52 (t, 1H, J=7.6 Hz), 7.60 (t, 1H, J=7.0 Hz), 8.12 (d, 2H, J=8.4 Hz), 8.23 (d, 2H, J=8.4 Hz), 8.00-8.40 (m, 2H). MS (API-ES+) m/z 256 (M+H).

reactant | 2-aminothiophenol | 2.4 mmol, 300 mg | NC1=C(C=CC=C1)S | C6H7NS
reactant | 4-carboxybenzaldehyde | 0.24 mmol, 400 mg | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | TCNE | 2.4 mmol, 307 mg | C(#N)C(=C(C#N)C#N)C#N | C6N4
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | 2-(4-Carboxyphenyl)benzothiazole | C(=O)(O)C1=CC=C(C=C1)C=1SC2=C(N1)C=CC=C2 | C14H9NO2S
